US05338740
A. 2-[1-(2-Butyl4-oxo-1,3-diaza-spiro[4.4]non-1-en-3-yl)-indan-5-yl]-benzonitrile
Sodium hydride (53 mg, 2.3 mmol) was added to 2-butyl-1,3-diaza-spiro[4.4]non-1-en-4-one (458 mg, 2.36 mmol) in anhydrous 1,4-dioxane (3 mL). After 0.25 hour, a solution of 2-(1-chloro-indan-5-yl)-benzonitrile (300 mg, 1.18 mmol)in dioxane (1.0 mL) was added. The reaction mixture was heated at 110° C. for 20 hours, cooled to room temperature and concentrated in vacuo. The crude residue was chromatographed on SiO2 -gel using 50% ethyl acetate/hexanes to give 150 mg of a colorless oil. 1H NMR (250 MHz, CDCl3): d 7.80 (d, 1 H), 7.65 (q, 1 H), 7.48 (m, 4 H), 7.10 (d, 1 H), 5.75 (m, 1 H), 3.42 (m), 3.15 (m), 2.85 (m), 2.55 (m), 2.40-1.60 (m), 1.40 (m), 0.88 (t, 3 H).

reactant | Sodium hydride | 2.3 mmol, 53 mg | [H-].[Na+]
reactant | 2-butyl-1,3-diaza-spiro[4.4]non-1-en-4-one | 2.36 mmol, 458 mg | C(CCC)C1=NC2(C(N1)=O)CCCC2 | C11H18N2O
reactant | 2-(1-chloro-indan-5-yl)-benzonitrile | 1.18 mmol, 300 mg | ClC1CCC2=CC(=CC=C12)C1=C(C#N)C=CC=C1 | C16H12ClN
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 2-[1-(2-Butyl4-oxo-1,3-diaza-spiro[4.4]non-1-en-3-yl)-indan-5-yl]-benzonitrile | 150 mg | C(CCC)C1=NC2(C(N1C1CCC3=CC(=CC=C13)C1=C(C#N)C=CC=C1)=O)CCCC2 | C27H29N3O
